US07777038B2
Pyridine (1.12 ml) and trifluoromethanesulfonic anhydride (1.99 ml) were added with stirring at 0° C. to an anhydrous dichloromethane solution (40 ml) of 1-(biphenyl-4-ylmethyl)-5-hydroxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one (4.0 g), followed by stirring for 1 hour. The resulting mixture was concentrated under reduced pressure, water was added to the residue, and extraction with dichloromethane was performed. The extract was washed with water, an aqueous potassium hydrogensulfate solution and water in this order, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to thereby obtain 5.45 g (yield: quantitative) of 1-(biphenyl-4-ylmethyl)-8-phenyl-5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one as a white amorphous solid.

reactant | Pyridine | 1.12 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.99 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(biphenyl-4-ylmethyl)-5-hydroxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one | 4.0 g | C1(=CC=C(C=C1)CN1C(CCC2=C(C=CC(=C12)C1=CC=CC=C1)O)=O)C1=CC=CC=C1 | C28H23NO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(biphenyl-4-ylmethyl)-8-phenyl-5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one | 5.45 g, yield: quantitative | C1(=CC=C(C=C1)CN1C(CCC2=C(C=CC(=C12)C1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O)C1=CC=CC=C1 | C29H22F3NO4S
